US05747498
[7-(2-Chloro-ethoxy)-6-(2-methoxy-ethoxy)-quinazolin-4-yl]-(3-ethynyl-phenyl)-amine Hydrochloride
This product was prepared from 4-chloro-7-(2-chloro-ethoxy)-6-(2-methoxy-ethoxy)-quinazoline (600 mg, 1.89 mmol) and 3-ethynyl-aniline (147 mg, 1.26 mmol) as described for Example 29. (737 mg; 90%; M.P. 225°-235° C. (dec); LC-MS: 398 (MH+); anal. RP18-HPLC RT: 4.89 min.).

reactant | 4-chloro-7-(2-chloro-ethoxy)-6-(2-methoxy-ethoxy)-quinazoline | 1.89 mmol, 600 mg | ClC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCCl | C13H14Cl2N2O3
reactant | 3-ethynyl-aniline | 1.26 mmol, 147 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
product | [7-(2-Chloro-ethoxy)-6-(2-methoxy-ethoxy)-quinazolin-4-yl]-(3-ethynyl-phenyl)-amine Hydrochloride | Cl.ClCCOC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C#C)OCCOC | InChI=1S/C21H20ClN3O3.ClH/c1-3-15-5-4-6-16(11-15)25-21-17-12-19(28-10-9-26-2)20(27-8-7-22)13-18(17)23-14-24-21;/h1,4-6,11-14H,7-10H2,2H3,(H,23,24,25);1H
